US04353734
1.88 g. (0.01 mole) of 3-phenylamino-maleinimide are dissolved in 70 ml. of acetone under stirring. To this mixture 2.1 g. (0.015 mole) of benzoyl chloride and 1.51 g. (0.015 mole) of triethylamine are added dropwise under simultaneous stirring. The temperature is maintained at 25°-30° C. during the addition. The mixture is then stirred for 2.5 hours at room temperature and heated for 1.5 hours. The mixture is allowed to stand overnight. The product is precipitating together with triethylaminechlorohydrate. The crystalline mixture is filtered and washed with 2×10 ml. of water. After drying a yellow crystalline product is obtained, which can be recrystallized from chloroform or acetone, if desired. 3-Phenylamino-N-benzoyl-maleinimide is obtained.

reactant | 3-phenylamino-maleinimide | 0.01 mole | C1(=CC=CC=C1)NC1=CC(=O)NC1=O | C10H8N2O2
reactant | benzoyl chloride | 0.015 mole | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 0.015 mole | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | 3-Phenylamino-N-benzoyl-maleinimide | C1(=CC=CC=C1)NC1=CC(=O)N(C1=O)C(C1=CC=CC=C1)=O | C17H12N2O3
